US05180742
D-Camphor-10-sulfonic acid (0.1 g) was added to a toluene solution (60 ml) of 2,3,5-trimethylhydroquinone (3.1 g, 0.02 mole) and 6-hydroxy-6-(4-methoxyphenyl)hexanoic acid (5.0 g, 0.021 mole), and the mixture was heated at 70° C. for 20 hours, with stirring. The reaction solution was evaporated under reduced pressure, and tetrahydrofuran (50 ml) was added to dissolve the residue, followed by adding furthermore a 10% aqueous solution of ferric chloride and stirring at room temperature for 10 minutes. The reaction product was extracted with ethyl acetate, and the organic layer was washed with water, dried and then concentrated under reduced pressure. The residue was chromatographed on a silica gel column, and elution was performed with isopropyl ether to give 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(4-methoxyphenyl)hexanoic acid (5.1 g, 76%). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 23 to 34 and 68 were prepared.

reactant | 2,3,5-trimethylhydroquinone | 0.02 mole, 3.1 g | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | 6-hydroxy-6-(4-methoxyphenyl)hexanoic acid | 0.021 mole, 5.0 g | OC(CCCCC(=O)O)C1=CC=C(C=C1)OC | C13H18O4
catalyst | D-Camphor-10-sulfonic acid | 0.1 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(4-methoxyphenyl)hexanoic acid | 5.1 g, 76% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCC(=O)O)C1=CC=C(C=C1)OC | C22H26O5
